US04112095
According to the method in "Organic Syntheses", 5-amino-2-chlorobenzotrifluoride is converted to 4-chloro-3-(trifluoromethyl)benzaldehyde. As in Example 35, the following reactions are carried out. 4-Chloro-3-(trifluoromethyl)benzaldehyde (13.9 g.), 14.27 g. of p-toluenesulfonic acid, 13.01 g. of morpholine and 4.88 g. of potassium cyanide is reacted to give α-[4-chloro-3-(trifluoromethyl)phenyl]-4-morpholineacetonitrile as white crystals, m.p. 73°-74° C. This compound (14.0g.) is reacted with ethyl acrylate to give ethyl γ-cyano-γ-[4-chloro-3-(trifluoromethyl)phenyl]-4-morpholinebutyrate as a yellow oil (16.5 g.). This compound (16.5 g.) is reacted with 2.11 g. of hydrazine in 100 ml. of ethanol to give 6-[4-chloro-3-(trifluoromethyl)phenyl]-4,5-dihydro-3(2H)-pyridazinone (4.2 g.) as white crystals, m.p. 195°-198° C. This intermediate is heated with bromine in acetic acid to give 6-[4-chloro-3-(trifluoromethyl)phenyl]-3-(2 H)-pyridazinone as white crystlas, m.p. 249°-251° C. A mixture of this compound (5 g.) and 60 ml. of phosphoric oxychloride is refluxed 18 hours to give 3-chloro-6-[4-chloro--3-(trifluoromethyl)phenyl]pyridazine as cream colored crystals, m.p. 145°-147° C. A mixture of 2.2 g. of the preceding compound, 0.9 g. of formylhydrazine, and 50 ml. of n-butanol is refluxed for 48 hours to give 2.1 g. of product, m.p. 211°-214° C. Recrystallization from n-propanol gives cream colored crystals, m.p. 217°-218° C.

reactant | 5-amino-2-chlorobenzotrifluoride | NC=1C=CC(=C(C1)C(F)(F)F)Cl | C7H5ClF3N
reactant | 4-chloro-3-(trifluoromethyl)benzaldehyde | ClC1=C(C=C(C=O)C=C1)C(F)(F)F | C8H4ClF3O
reactant | 4-Chloro-3-(trifluoromethyl)benzaldehyde | 13.9 g | ClC1=C(C=C(C=O)C=C1)C(F)(F)F | C8H4ClF3O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | potassium cyanide | [C-]#N.[K+]
product | α-[4-chloro-3-(trifluoromethyl)phenyl]-4-morpholineacetonitrile | ClC1=C(C=C(C=C1)C(C#N)N1CCOCC1)C(F)(F)F | C13H12ClF3N2O
